US06706753B2
Carbazole (100.24 g) was suspended in acetic anhydride (300 mL) with catalytic boron trifluoride etherate (0.65 mL) and the solution refluxed for 25 min. then cooled to 0° C. and the solid was then collected and recrystallized from hexane to give 82.65 g 9-acetyl-carbazole.

reactant | Carbazole | 100.24 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | boron trifluoride etherate | 0.65 mL | B(F)(F)F.CCOCC
solvent | acetic anhydride | 300 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 9-acetyl-carbazole | 82.65 g | C(C)(=O)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H11NO
